### PR TITLE
[Merged by Bors] - feat(Analysis/Complex/AbsMax): add two lemmas

### PR DESCRIPTION
**Pull request by CBirkbeck**
add two results:

-  If `f` is differentiable on the open unit ball `{z : ℂ | ‖z‖ < 1}`, and `‖f‖` attains a maximum
in  this open ball, then `f` is constant 

-   If `f` is a function differentiable on the open unit ball, and there exists an `r < 1` such that
any value of `‖f‖` on the open ball is bounded above by some value on the closed ball of radius `r`,
then `f` is constant. 

These lemmas together with #18192 will be used to prove some dimension results for spaces of modular forms.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/AbsMax.lean [hunk 1]
```diff
@@ -312,6 +312,38 @@ theorem eqOn_closedBall_of_isMaxOn_norm {f : E → F} {z : E} {r : ℝ}
     EqOn f (const E (f z)) (closedBall z r) := fun _x hx =>
   eq_of_isMaxOn_of_ball_subset hd hz <| ball_subset_ball hx
 
+/-- If `f` is differentiable on the open unit ball `{z : ℂ | ‖z‖ < 1}`, and `‖f‖` attains a maximum
+in  this open ball, then `f` is constant.-/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Complex/AbsMax.lean:316]:
```suggestion
in this open ball, then `f` is constant.-/
```

File: Mathlib/Analysis/Complex/AbsMax.lean [hunk 2]
```diff
@@ -312,6 +312,38 @@ theorem eqOn_closedBall_of_isMaxOn_norm {f : E → F} {z : E} {r : ℝ}
     EqOn f (const E (f z)) (closedBall z r) := fun _x hx =>
   eq_of_isMaxOn_of_ball_subset hd hz <| ball_subset_ball hx
 
+/-- If `f` is differentiable on the open unit ball `{z : ℂ | ‖z‖ < 1}`, and `‖f‖` attains a maximum
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Complex/AbsMax.lean:315]: Is `{z : ℂ | ‖z‖ < 1}` really the best way to phrase this, rather than with `ball`?

File: Mathlib/Analysis/Complex/AbsMax.lean [hunk 3]
```diff
@@ -312,6 +312,38 @@ theorem eqOn_closedBall_of_isMaxOn_norm {f : E → F} {z : E} {r : ℝ}
...
+in this open ball, then `f` is constant.-/
+lemma eq_const_of_exists_max {f : E → F} {b : ℝ} (h_an : DifferentiableOn ℂ f (ball 0 b))
+    {v : E} (hv : v ∈ (ball 0 b)) (hv_max : IsMaxOn (norm ∘ f) (ball 0 b) v) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Complex/AbsMax.lean:318]:
```suggestion
    {v : E} (hv : v ∈ ball 0 b) (hv_max : IsMaxOn (norm ∘ f) (ball 0 b) v) :
```

File: Mathlib/Analysis/Complex/AbsMax.lean [hunk 4]
```diff
@@ -312,6 +312,38 @@ theorem eqOn_closedBall_of_isMaxOn_norm {f : E → F} {z : E} {r : ℝ}
...
+  · apply Convex.isPreconnected
+    simpa only [ball_zero_eq] using convex_ball (0 : E) b
+  · simpa only [← ball_zero_eq] using Metric.isOpen_ball
+
+/-- If `f` is a function differentiable on the open unit ball, and there exists an `r < 1` such that
+any value of `‖f‖` on the open ball is bounded above by some value on the closed ball of radius `r`,
+then `f` is constant. -/
+lemma eq_const_of_exists_le {f : ℂ → F} {r b : ℝ} (h_an : DifferentiableOn ℂ f (ball 0 b))
+    (hr_nn : 0 ≤ r) (hr_lt : r < b)
+    (hr : ∀ z, z ∈ (ball 0 b) → ∃ w, w ∈ closedBall 0 r ∧ ‖f z‖ ≤ ‖f w‖) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Complex/AbsMax.lean:330]:
```suggestion
    (hr : ∀ z ∈ ball 0 b, ∃ w ∈ closedBall 0 r, ‖f z‖ ≤ ‖f w‖) :
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks! Some purely cosmetic changes below

File: Mathlib/Analysis/Complex/AbsMax.lean [hunk 5]
```diff
@@ -312,6 +312,38 @@ theorem eqOn_closedBall_of_isMaxOn_norm {f : E → F} {z : E} {r : ℝ}
...
+  have : ContinuousOn f V := by
+    apply h_an.continuousOn.mono
+    simpa only [V] using fun _ ha ↦ ha.trans_lt hr_lt
+  obtain ⟨x, hx_mem, hx_max⟩ := hVc.exists_isMaxOn (nonempty_closedBall.mpr hr_nn) this.norm
+  suffices Set.EqOn f (Function.const ℂ (f x)) (ball 0 b) by
+    refine this.trans fun y _ ↦ ?_
+    simp only [Function.const_apply]
+    have h0 : (0 : ℂ) ∈ ball 0 b := by simp only [mem_ball, dist_self, zero_lt_one]; linarith
+    simpa using (this h0).symm
+  apply eq_const_of_exists_max h_an (lt_of_le_of_lt hx_mem hr_lt) (fun z hz ↦ ?_)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/AbsMax.lean:343]: You can get away with functions `f : E → F` if you assume `E` is a `ProperSpace`. Also, I think you may as well just write that `obtain` to start with. It's still readable.
```suggestion
lemma eq_const_of_exists_le [ProperSpace E] {f : E → F} {r b : ℝ} (h_an : DifferentiableOn ℂ f (ball 0 b))
    (hr_nn : 0 ≤ r) (hr_lt : r < b)
    (hr : ∀ z, z ∈ (ball 0 b) → ∃ w, w ∈ closedBall 0 r ∧ ‖f z‖ ≤ ‖f w‖) :
    Set.EqOn f (Function.const E (f 0)) (ball 0 b) := by
  obtain ⟨x, hx_mem, hx_max⟩ := isCompact_closedBall (0 : E) r |>.exists_isMaxOn
    (nonempty_closedBall.mpr hr_nn) 
    (h_an.continuousOn.mono <| closedBall_subset_ball hr_lt).norm
  suffices Set.EqOn f (Function.const E (f x)) (ball 0 b) by
    rwa [this (mem_ball_self (hr_nn.trans_lt hr_lt))]
  apply eq_const_of_exists_max h_an (closedBall_subset_ball hr_lt hx_mem) (fun z hz ↦ ?_)↦ ?_)
```

**Review by j-loreaux — COMMENTED** [review]
Thanks! LGTM now, but this isn't quite my corner of the library, so:

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
